US04940710
1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-morpholinyl)-4-oxo-3-quinolinecarboxylic acid
A mixture of 289 mg of 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 300 mg of morpholine and 5.6 ml of 1-methyl-2-pyrrolidone was heated in a stoppered flask at 65° C. for one hour. Ether was added, the solid collected, dissolved in 200 ml of acetone, filtered and boiled down to about 50 ml. The solid was collected, giving 137 mg of the desired product, mp 281°-283° C.

reactant | 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 289 mg | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | morpholine | 300 mg | N1CCOCC1 | C4H9NO
reactant | 1-methyl-2-pyrrolidone | 5.6 ml | CN1C(CCC1)=O | C5H9NO
solvent | Ether | CCOCC | C4H10O
product | 1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(4-morpholinyl)-4-oxo-3-quinolinecarboxylic acid | 137 mg | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCOCC1)F)F)=O)C(=O)O | C16H15F3N2O4
